US06555552B2
(1R*,2R*,5S*)-2-(2-Cyclopropyloxy-5-[5-(trifluoromethyl)tetrazol-1-yl]benzylamino)-1-phenyl-8-azabicyclo[3.2.1]octane
(1R*,2R*,5S*)-2-Amino-1-phenyl-8-azabicyclo[3.2.1]octane (Description 6; 50 mg, 0.25 mmol) and 2-(cyclopropoxy)-5-[5-(trifluoromethyl)tetrazol-1-yl]benzaldehyde (119 mg, 0.4 mmol) [See International (PCT) Patent Publication No. WO 99/24423, published 20 May 1999] were dissolved in 1,2-dichloroethane (5 mL) and treated with acetic acid (23 μL), followed by sodium triacetoxyborohydride (85 mg). The solution was stirred at ambient temperature for 16 hours, then quenched with saturated aqueous sodium hydrogen carbonate solution (50 mL). The mixture was extracted with dichloromethane (2×50 mL) and the extracts were dried (MgSO4), then concentrated. The residue was purified by silica chromatography to give the free base, which was taken up in ethyl acetate (10 mL) and treated with ethereal hydrogen chloride (1M, 2 mL). The solid formed was removed by filtration and recrystallized from methanol/ethyl acetate to give the title compound as a white solid (84 mg, 0.15 mmol).

reactant | (1R*,2R*,5S*)-2-Amino-1-phenyl-8-azabicyclo[3.2.1]octane | 0.25 mmol, 50 mg | N[C@H]1[C@@]2(CC[C@H](CC1)N2)C2=CC=CC=C2 | C13H18N2
reactant | 2-(cyclopropoxy)-5-[5-(trifluoromethyl)tetrazol-1-yl]benzaldehyde | 0.4 mmol, 119 mg | C1(CC1)OC1=C(C=O)C=C(C=C1)N1N=NN=C1C(F)(F)F | C12H9F3N4O2
reactant | sodium triacetoxyborohydride | 85 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | hydrogen chloride | 1M, 2 mL | Cl | ClH
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 23 μL | C(C)(=O)O | C2H4O2
product | (1R*,2R*,5S*)-2-(2-Cyclopropyloxy-5-[5-(trifluoromethyl)tetrazol-1-yl]benzylamino)-1-phenyl-8-azabicyclo[3.2.1]octane | 0.15 mmol, 84 mg | C1(CC1)OC1=C(CN[C@H]2[C@@]3(CC[C@H](CC2)N3)C3=CC=CC=C3)C=C(C=C1)N1N=NN=C1C(F)(F)F | C25H27F3N6O
